US05175162
To a solution of 3.7 g of 9-ethyl-4,4a,5,6-tetrahydrothieno[2',3':2,3]-thiepino[4,5-c]pyridazin-3(2H)-one in 40 ml of acetic acid is added dropwise a solution of 2.3 g of bromine in 10 ml of acetic acid with stirring for 15 minutes at 45°-50° C. and the mixture is stirred for 30 minutes at the same temperature. Then, the mixture is poured into ice-cold water and the precipitated crystals are collected by filtration and washed with water. The resulting crude crystals are dissolved in chloroform, subjected to column chromatography on silica gel and eluted with a mixed solvent of chloroform and ethanol (100:0.5). The crystals obtained from the fraction are recrystallized from a mixed solvent of chloroform and ethanol to give 1.8 g of 9-ethyl-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one as white crystals, melting at 256°-258° C.

reactant | 9-ethyl-4,4a,5,6-tetrahydrothieno[2',3':2,3]-thiepino[4,5-c]pyridazin-3(2H)-one | 3.7 g | C(C)C1=CC2=C(SCCC3C2=NNC(C3)=O)S1 | C12H14N2OS2
reactant | bromine | 2.3 g | BrBr | Br2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 9-ethyl-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one | 1.8 g | C(C)C1=CC2=C(SCCC=3C2=NNC(C3)=O)S1 | C12H12N2OS2
